* NDS336P ELECTRICAL MODEL (SuperSOT-3 SOT-23 P-Ch DMOS)

* ------------------------

.SUBCKT  NDS336P  20  10  30

Rg     10    1    1

M1      2    1    3    3    DMOS    L=1u   W=1u

.MODEL DMOS PMOS (VTO={-0.9*{-0.00272*TEMP+1.068}}  KP={-0.012*TEMP+5} 

+ THETA=0.096  VMAX=4E5  LEVEL=3)        

Cgs     1    3    450p

Rd     20    4    20m TC=0.0044

Dds     4    3    DDS

.MODEL     DDS    D(BV={20*{0.000384*TEMP+0.9904}}   M=0.3  CJO=450p   VJ=0.8)

Dbody   20   3    DBODY

.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)

Ra      4    2    100m TC=0.0044

Rs      3    5    1m

Ls      5    30   0.5n

M2      1    8    6    6   INTER

E2      8    6    4    1   2

.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)

Cgdmax  7    4    710p

Rcgd    7    4    10meg

Dgd     4    6    DGD

Rdgd    4    6    10meg

.MODEL     DGD    D(M=0.5   CJO=510p   VJ=0.12)

M3      7    9    1    1   INTER

E3      9    1    4    1   -2

.ENDS NDS336P

*

* NDS336P THERMAL MODEL

* ---------------------

.SUBCKT   336PTHM   50  40  100



Rop       50   60   1meg

Cop       60   70   1u   IC=0

E_W       40   70   40   60  1meg



E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)}

R80       80   40   1k



E_Tja     100   40   VALUE = {V(80,40)*250*V(90,40)}

R100      100   40   1k



R90       90   40   1k

E_rja     90   40   table {TIME} ; Normalized NDS336P Single Pulsed rja(t)

+(  0.0001 ,0.001402 )

+(0.000872 ,  0.0085 )

+(0.009476 ,0.057119 )

+(    0.05 ,0.146823 )

+(     0.1 ,0.205168 )

+(     0.2 ,0.279125 )

+(     0.5 ,0.401537 )

+(       1 ,0.495428 )

+(       2 ,0.576191 )

+(       5 ,0.669571 )

+(  10.683 ,0.741601 )

+( 21.2997 ,0.810463 )

+(      50 ,0.895578 )

+(     100 ,0.953184 )

+( 156.877 ,0.975353 )

+( 216.442 ,0.979892 )

.ENDS 336PTHM

*=======================================================================



